US07067506B2
Step 5: 5-Methoxy-4-(4-nitro-phenoxycarbonylamino)-2-trifluoromethyl-benzoic acid methyl ester.
To a stirred solution of 5-methoxy-4-amino-2-trifluoromethyl-benzoic acid methyl ester (552 mg, 2.22 mmol) in 6.6 mL CH2Cl2 at 0° C. under nitrogen was added pyridine (180 μL, 2.22 mmol) followed by p-nitrophenyl chloroformate (448 mg, 2.22 mmol) as a solid. After stirring for 1 hour, the reaction was diluted to 30 mL with CH2Cl2 and washed 2×30 mL with 2N HCl and 1×30 mL with H2O. The organics were dried (MgSO4), filtered and concentrated to the p-nitrophenyl carbamate which was isolated as a white foam (878 mg, 96%). 1H-NMR (400 MHz, CDCl3) S 8.57 (br s, 1H), 8.30 (d, 2H), 7.77 (br s, 1H), 7.40 (d, 2H), 7.37 (s, 1H), 4.03 (s, 3H), 3.94 (s, 3H)

reactant | 5-methoxy-4-amino-2-trifluoromethyl-benzoic acid methyl ester | 2.22 mmol, 552 mg | COC(C1=C(C=C(C(=C1)OC)N)C(F)(F)F)=O | C10H10F3NO3
reactant | pyridine | 2.22 mmol, 180 μL | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 2.22 mmol, 448 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 6.6 mL | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-4-(4-nitro-phenoxycarbonylamino)-2-trifluoromethyl-benzoic acid methyl ester | 878 mg, 96% | COC(C1=C(C=C(C(=C1)OC)NC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C17H13F3N2O7
